US07776848B2
2-Benzofuran-3-yl-ethanol
A solution of benzofuran-3-yl-acetic acid methyl ester (4.0 g, 21 mmol) in 25 ml of ether was added dropwise at RT to a suspension of lithium alanate (1.61 g, 59.5 mmol) in 35 ml of ether, and stirring was then carried out for 30 minutes. Excess alanate was then hydrolysed with ethanol, the mixture was suction-filtered over Kieselguhr, and the solvent was removed in vacuo. The product was obtained in the form of a yellowish oil in a yield of 3.0 g (89%).

reactant | benzofuran-3-yl-acetic acid methyl ester | 21 mmol, 4.0 g | COC(CC1=COC2=C1C=CC=C2)=O | C11H10O3
reactant | lithium | 59.5 mmol, 1.61 g | [Li] | Li
reactant | ether | 25 ml | CCOCC | C4H10O
reactant | ether | 35 ml | CCOCC | C4H10O
product | 2-Benzofuran-3-yl-ethanol | C=1OC(=C2C1C=CC=C2)C(C)O | C10H10O2
